US07713994B2
4-{[(5-Amino-4-hydroxy-pyridin-2-ylmethyl)-amino]-methylene}-6-iodo-4H-isoquinoline-1,3-dione
A mixture of 5-amino-2-aminomethyl-pyridin-4-ol (60 mg, 0.19 mmole as the dihydrobromide), 3 mL of N,N-dimethylformamide and triethylamine (101 uL, 0.72 mmole) were stirred for 15 mins, 4-methoxymethylene-6-iodo-4H-isoquinoline-1,3-dione (63 mg, 0.19 mmole) is added and the reaction mixture stirred for one hour. The reaction mixture is evaporated to dryness, taken up in dimethylsulfoxide and purified by HPLC (acetonitrile-water with 0.2% trifluoroacetic acid). The product is isolated by evaporation in-vacuo to give a brown solid, 5.5 mg, (5%); MS (ES+): m/z 437.0 (M+H).

reactant | 5-amino-2-aminomethyl-pyridin-4-ol | NC=1C(=CC(=NC1)CN)O | C6H9N3O
reactant | triethylamine | 0.72 mmole, 101 uL | C(C)N(CC)CC | C6H15N
reactant | 4-methoxymethylene-6-iodo-4H-isoquinoline-1,3-dione | 0.19 mmole, 63 mg | COC=C1C(NC(C2=CC=C(C=C12)I)=O)=O | C11H8INO3
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | 4-{[(5-Amino-4-hydroxy-pyridin-2-ylmethyl)-amino]-methylene}-6-iodo-4H-isoquinoline-1,3-dione | NC=1C(=CC(=NC1)CNC=C1C(NC(C2=CC=C(C=C12)I)=O)=O)O | C16H13IN4O3
